2159-10-14 07:39:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2159-10-13**] 05:25 PM
   intubated at OSH
 [**Last Name (un) **] INSERTED - At [**2159-10-13**] 05:26 PM
   [**Last Name (un) 466**] at OSH
 CORDIS/INTRODUCER - START [**2159-10-13**] 07:30 PM
 TRAUMA LINE - START [**2159-10-13**] 11:00 PM
 PAN CULTURE - At [**2159-10-14**] 05:49 AM
 FEVER - 101.3
C - [**2159-10-14**] 06:00 AM
   ===========
   1.       Patient with aggressive Blood product resuscitation.  Unclear
   OSH resuscitation. Approximately 4U pRBCs & 2U FFP
   2.       Went for TIPS, which was aborted due to patient
s anatomy.  IR
   suggested CT Liver in 24 hours after contrast washout, to further
   determine vasculature.
   3.       pRBCs: 5
   4.       PLT: 2
   5.       FFP: 4
   6.       Hct post 8U pRBC: 30, given 2 U
.Hct: 35
   7.       Fever to 101.3
 pancultured
   Allergies:
   Last dose of Antibiotics:
   Ceftriaxone - [**2159-10-13**] 08:00 PM
   Infusions:
   Fentanyl - 150 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Pantoprazole (Protonix) - 8 mg/hour
   Octreotide - 50 mcg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2159-10-14**] 07:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 38.4
C (101.1
   HR: 102 (80 - 112) bpm
   BP: 124/62(80) {124/62(4) - 156/84(111)} mmHg
   RR: 15 (14 - 22) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
    CVP: 14 (14 - 14)mmHg
   Total In:
                                                                  2,297 mL
                                                                  3,202 mL
   PO:
   TF:
   IVF:
                                                                    303 mL
                                                                  2,638 mL
   Blood products:
                                                                  1,994 mL
                                                                    564 mL
   Total out:
                                                                    590 mL
                                                                  1,305 mL
   Urine:
                                                                    290 mL
                                                                  1,205 mL
   NG:
                                                                    300 mL
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                  1,707 mL
                                                                  1,897 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 15
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 24 cmH2O
   Plateau: 22 cmH2O
   SpO2: 100%
   ABG: 7.37/40/121/22/-1
   Ve: 10.1 L/min
   PaO2 / FiO2: 303
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   73 K/uL
   13.0 g/dL
   92 mg/dL
   0.7 mg/dL
   22 mEq/L
   3.9 mEq/L
   14 mg/dL
   113 mEq/L
   142 mEq/L
   35.2 %
   5.3 K/uL
        [image002.jpg]
                            [**2159-10-13**]  05:50 PM
                            [**2159-10-13**]  06:13 PM
                            [**2159-10-13**]  08:00 PM
                            [**2159-10-13**]  08:20 PM
                            [**2159-10-13**]  10:45 PM
                            [**2159-10-13**]  10:51 PM
                            [**2159-10-14**]  12:30 AM
                            [**2159-10-14**]  12:39 AM
                            [**2159-10-14**]  03:42 AM
                            [**2159-10-14**]  04:22 AM
   WBC
   3.7
   3.3
   3.3
   5.3
   Hct
   29.9
   30.4
   30.3
   32
   30.4
   35.2
   Plt
   28
   59
   68
   75
   73
   Cr
   0.7
   0.6
   0.6
   0.7
   TCO2
   23
   23
   25
   24
   Glucose
   117
   147
   99
   99
   92
   Other labs: PT / PTT / INR:15.8/39.1/1.4, ALT / AST:118/188, Alk Phos /
   T Bili:56/2.8, Differential-Neuts:86.7 %, Lymph:7.6 %, Mono:5.0 %,
   Eos:0.6 %, Fibrinogen:183 mg/dL, Lactic Acid:2.6 mmol/L, Ca++:7.7
   mg/dL, Mg++:2.2 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   47M with HepC cirrhosis with UGIIB
   UGIB: Likely due to gastric variceal banding, as seen on OSH EGD on day
   of admission
   - Will aggressively resusicitate with blood products
   - Maintain MAP > 65
   - Maintain Hct > 30
   - q4h HCT
   - Maintain UO > 30 cc/hr
   - Maintain Plt > 70
   - Maintain Fibrinogen > 100
   - Cordis placed in R femoral vein without complication
   - IV PPI
   - Ceftriaxone qd
   - Octreotide infusion
   - Patient with 3 PIV 18 gauge
   - [**State 1497**] tube in place
   - Patient going to IR for TIPS vs. gastric variceal embolization
   - Appreciate Liver input
   Respiratory Failure: intubated for airway protection, although had RMS
   intubation.  Currently sedated on propofol
   - Switched to Fentanyl/Versed
   - Wean FiO2/PEEP as permitted
   - A-line placed
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   18 Gauge - [**2159-10-13**] 05:30 PM
   Cordis/Introducer - [**2159-10-13**] 07:30 PM
   Trauma line - [**2159-10-13**] 11:00 PM
   Prophylaxis:
   DVT: boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2159-10-14 08:27:00 Physician Attending Progress Note
24 Hour Events:
   Hx reviewed, patient seen and examined with Dr. [**Last Name (STitle) 1511**] and Dr
   [**Last Name (STitle) 1500**].
   Unable to do TIPS in IR.  Has received 5units PRBC, 2 plt, 4 ffp
   Fever 101.3 this am pan cultured.
 INVASIVE VENTILATION - START [**2159-10-13**] 05:25 PM
   intubated at OSH
 [**Last Name (un) **] INSERTED - At [**2159-10-13**] 05:26 PM
   [**Last Name (un) 466**] at OSH
 FEVER - 101.3
C - [**2159-10-14**] 06:00 AM
   Allergies:
   Last dose of Antibiotics:
   Ceftriaxone - [**2159-10-13**] 08:00 PM
   Infusions:
   Fentanyl - 150 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Pantoprazole (Protonix) - 8 mg/hour
   Octreotide - 50 mcg/hour
   Other ICU medications:
   Other medications:
   Ca/mag sliding scale
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2159-10-14**] 08:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 38.3
C (100.9
   HR: 101 (80 - 112) bpm
   BP: 127/63(81) {124/62(4) - 156/84(111)} mmHg
   RR: 15 (14 - 22) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   CVP: 14 (14 - 14)mmHg
   Total In:
                                                                  2,297 mL
                                                                  3,240 mL
   PO:
   TF:
   IVF:
                                                                    303 mL
                                                                  2,676 mL
   Blood products:
                                                                  1,994 mL
                                                                    564 mL
   Total out:
                                                                    590 mL
                                                                  1,345 mL
   Urine:
                                                                    290 mL
                                                                  1,245 mL
   NG:
                                                                    300 mL
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                  1,707 mL
                                                                  1,895 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 15
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 31 cmH2O
   Plateau: 23 cmH2O
   SpO2: 100%
   ABG: 7.37/40/121/22/-1
   Ve: 8.6 L/min
   PaO2 / FiO2: 303
   Physical Examination
   Gen: Intubated, sedated, [**Last Name (un) 466**] tube in place
   HEENT: PERL
   Heart: S1S2 reg
   Lungs: clear
   Abd: soft, non-distended
   Ext: no LE edema
   Labs / Radiology: Lines and tubes in place no acute process
   13.0 g/dL
   73 K/uL
   92 mg/dL
   0.7 mg/dL
   22 mEq/L
   3.9 mEq/L
   14 mg/dL
   113 mEq/L
   142 mEq/L
   33.8 %
   5.3 K/uL
        [image002.jpg]
                            [**2159-10-13**]  06:13 PM
                            [**2159-10-13**]  08:00 PM
                            [**2159-10-13**]  08:20 PM
                            [**2159-10-13**]  10:45 PM
                            [**2159-10-13**]  10:51 PM
                            [**2159-10-14**]  12:30 AM
                            [**2159-10-14**]  12:39 AM
                            [**2159-10-14**]  03:42 AM
                            [**2159-10-14**]  04:22 AM
                            [**2159-10-14**]  07:45 AM
   WBC
   3.7
   3.3
   3.3
   5.3
   Hct
   30.4
   30.3
   32
   30.4
   35.2
   33.8
   Plt
   28
   59
   68
   75
   73
   Cr
   0.7
   0.6
   0.6
   0.7
   TCO2
   23
   23
   25
   24
   Glucose
   117
   147
   99
   99
   92
   Other labs: PT / PTT / INR:15.8/39.1/1.4, ALT / AST:118/188, Alk Phos /
   T Bili:56/2.8, Differential-Neuts:86.7 %, Lymph:7.6 %, Mono:5.0 %,
   Eos:0.6 %, Fibrinogen:183 mg/dL, Lactic Acid:2.6 mmol/L, Ca++:7.7
   mg/dL, Mg++:2.2 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   47M with HepC cirrhosis with UGIB due to esophageal and gastric
   varices. [**Last Name (un) 466**] inflated, unsuccessful TIPS attempt, Hct stable, no
   evidence of active GI bleeding.
   UGIB: Likely due to gastric variceal banding, as seen on OSH EGD on day
   of admission Hct has stabilized.
   - Maintain MAP > 65
   - Maintain Hct > 30
   - q4h HCT
   - Maintain UO > 30 cc/hr
   - Maintain Plt > 50
   - Maintain Fibrinogen > 100
   - Cordis placed in R femoral vein without complication has right IJ
   trauma line will d
c femoral line today.
   - IV PPI
   - Ceftriaxone qd
   - Octreotide infusion
   - Patient with 3 PIV 18 gauge
   - [**State 1497**] [**Last Name (un) 466**] tube in place
   - IR for TIPS was unsuccessful if rebleeds will consider variceal
   embolization.  Possible retry of TIPS.
   -GI will lower ballon today to see if rebleeds.
   -CT abd/pelvis to evaluate vasculature.
   -Blood bank wants to give Rhogam for RH+ platlets in possible
   transplant patient.
   Respiratory Failure: intubated for airway protection, although had RMS
   intubation corrected.
   - on  Fentanyl/versed, will check train of 4 to ensure not still
   paralysed before reducing sedation.
   - wean FiO2/PEEP as permitted
   - A-line placed
   Overall plan is for repeat 3 phase CT tonight with IR to consider
   repeat TIPS in AM. Patient received Rocuronium prior to transfer at
   OSH.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2159-10-13**] 05:30 PM
   Cordis/Introducer - [**2159-10-13**] 07:30 PM
   Trauma line - [**2159-10-13**] 11:00 PM
   Arterial Line - [**2159-10-14**] 07:49 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full
   Disposition :
   Total time spent:
   ------ Protected Section ------
   Case discussed with IR.
   Total critical care time 30 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 1512**] [**Last Name (NamePattern1) 1513**], MD
   on:[**2159-10-14**] 16:37 ------

2159-10-15 07:17:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2159-10-14**] 11:00 AM
   liver
 CORDIS/INTRODUCER - STOP [**2159-10-14**] 08:19 PM
 FEVER - 101.1
C - [**2159-10-14**] 07:00 AM
   =================
   -received one bag of platelets for Plat 70 to 93
   -Hct stable @ 31
   -deflated [**Last Name (un) 466**]
 without event
   -RUQ US showed Gall bladder sludge without cholelithiasis or
   cholecystitis. Portal systemic and arterial vasculature intact
   -received Rhogham, because on liver transplant list and received
   platelets.
   -right femoral line pulled
   -had CTA abdomen
 still unread at this point
   -blood cultures growing gram pos cocci in pairs and clusters from
   A-line
   Allergies:
   Last dose of Antibiotics:
   Ceftriaxone - [**2159-10-14**] 08:00 PM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 100 mcg/hour
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2159-10-15**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.2
C (99
   HR: 74 (74 - 96) bpm
   BP: 130/66(89) {103/47(64) - 148/73(101)} mmHg
   RR: 15 (15 - 17) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 12 (8 - 18)mmHg
   Total In:
                                                                  5,230 mL
                                                                    839 mL
   PO:
   TF:
   IVF:
                                                                  4,413 mL
                                                                    839 mL
   Blood products:
                                                                    817 mL
   Total out:
                                                                  1,915 mL
                                                                    415 mL
   Urine:
                                                                  1,715 mL
                                                                    365 mL
   NG:
                                                                    200 mL
                                                                     50 mL
   Stool:
   Drains:
   Balance:
                                                                  3,315 mL
                                                                    424 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 15
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 30 cmH2O
   Plateau: 24 cmH2O
   Compliance: 31.6 cmH2O/mL
   SpO2: 100%
   ABG: 7.41/34/140/23/-1
   Ve: 9 L/min
   PaO2 / FiO2: 350
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   93 K/uL
   11.4 g/dL
   128 mg/dL
   0.7 mg/dL
   23 mEq/L
   3.8 mEq/L
   21 mg/dL
   114 mEq/L
   141 mEq/L
   31.2 %
   5.5 K/uL
        [image002.jpg]
                            [**2159-10-14**]  12:39 AM
                            [**2159-10-14**]  03:42 AM
                            [**2159-10-14**]  04:22 AM
                            [**2159-10-14**]  07:45 AM
                            [**2159-10-14**]  11:44 AM
                            [**2159-10-14**]  04:24 PM
                            [**2159-10-14**]  07:04 PM
                            [**2159-10-14**]  11:01 PM
                            [**2159-10-15**]  04:19 AM
                            [**2159-10-15**]  04:31 AM
   WBC
   5.3
   6.9
   6.4
   5.5
   Hct
   35.2
   33.8
   31.0
   31.7
   31.9
   32.7
   31.2
   Plt
   73
   70
   67
   103
   97
   93
   Cr
   0.7
   0.8
   0.7
   TCO2
   25
   24
   22
   Glucose
   92
   128
   Other labs: PT / PTT / INR:16.5/35.8/1.5, ALT / AST:161/258, Alk Phos /
   T Bili:56/1.6, Differential-Neuts:86.7 %, Lymph:7.6 %, Mono:5.0 %,
   Eos:0.6 %, Fibrinogen:190 mg/dL, Lactic Acid:1.6 mmol/L, Albumin:2.3
   g/dL, LDH:235 IU/L, Ca++:7.3 mg/dL, Mg++:1.8 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   47M with HepC cirrhosis with UGIIB
   Positive Blood Cultures: Patient started on IV Vanc for GPC in blood
   cultures as lines likely source
   - Follow surveillance cultures.
   - Will draw cultures from lines to see if any of them are infected and
   will resite
   UGIB: Likely due to gastric variceal banding, as seen on OSH EGD on day
   of admission
   - Will aggressively resusicitate with blood products
   - Maintain MAP > 65,  Hct > 30, UO > 30 cc/hr, Plt > 70, Fibrinogen >
   100
   - q4h HCT, PLT
   - IV PPI, Ceftriaxone, Octreotid
   - [**State 1497**] tube deflated without bleeding
   - Patient s/p attempted TIPS without success and CT Abdomen done that
   will require review
   - Appreciate Liver input
   Respiratory Failure: intubated for airway protection.
   - Switched to Fentanyl/Versed
   - Wean FiO2/PEEP as permitted
   - A-line placed
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2159-10-13**] 05:30 PM
   Trauma line - [**2159-10-13**] 11:00 PM
   Arterial Line - [**2159-10-14**] 07:49 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2159-10-16 07:23:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Hct stable on serial checks
   - On schedule for TIPS today; could not be accomodated yesterday
   - Attempted to resite a-line but could not access vessel with wire;
   deferred move while awaiting GPC spec
   - bolused NS for Low U/O
   Allergies:
   Last dose of Antibiotics:
   Vancomycin - [**2159-10-15**] 08:10 PM
   Ceftriaxone - [**2159-10-15**] 08:10 PM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2159-10-16**] 07:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 36.8
C (98.2
   HR: 64 (63 - 77) bpm
   BP: 134/80(103) {115/59(78) - 146/86(109)} mmHg
   RR: 15 (14 - 16) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 17 (6 - 17)mmHg
   Total In:
                                                                  2,747 mL
                                                                  1,425 mL
   PO:
   TF:
   IVF:
                                                                  2,747 mL
                                                                  1,425 mL
   Blood products:
   Total out:
                                                                    980 mL
                                                                    235 mL
   Urine:
                                                                    930 mL
                                                                    235 mL
   NG:
                                                                     50 mL
   Stool:
   Drains:
   Balance:
                                                                  1,767 mL
                                                                  1,190 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 15
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 27 cmH2O
   Plateau: 21 cmH2O
   Compliance: 37.5 cmH2O/mL
   SpO2: 100%
   ABG: ///24/
   Ve: 8.9 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   86 K/uL
   11.3 g/dL
   146 mg/dL
   0.7 mg/dL
   24 mEq/L
   3.7 mEq/L
   21 mg/dL
   115 mEq/L
   142 mEq/L
   32.4 %
   4.6 K/uL
        [image002.jpg]
                            [**2159-10-14**]  07:45 AM
                            [**2159-10-14**]  11:44 AM
                            [**2159-10-14**]  04:24 PM
                            [**2159-10-14**]  07:04 PM
                            [**2159-10-14**]  11:01 PM
                            [**2159-10-15**]  04:19 AM
                            [**2159-10-15**]  04:31 AM
                            [**2159-10-15**]  08:15 AM
                            [**2159-10-15**]  04:02 PM
                            [**2159-10-16**]  12:21 AM
   WBC
   6.9
   6.4
   5.5
   5.9
   4.6
   Hct
   33.8
   31.0
   31.7
   31.9
   32.7
   31.2
   32.1
   33.4
   32.4
   Plt
   70
   67
   103
   97
   93
   98
   106
   86
   Cr
   0.8
   0.7
   0.7
   TCO2
   22
   Glucose
   128
   146
   Other labs: PT / PTT / INR:16.3/31.0/1.5, ALT / AST:138/191, Alk Phos /
   T Bili:55/1.8, Differential-Neuts:86.7 %, Lymph:7.6 %, Mono:5.0 %,
   Eos:0.6 %, Fibrinogen:198 mg/dL, Lactic Acid:1.6 mmol/L, Albumin:2.3
   g/dL, LDH:162 IU/L, Ca++:7.3 mg/dL, Mg++:1.7 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
   47M with HepC cirrhosis with UGIIB
   Positive Blood Cultures: Patient started on IV Vanc for GPC in blood
   cultures as lines likely source
   - Follow surveillance cultures.
   - Will resite A line as the culture was drawn from Left radial A-line
   UGIB: Likely due to gastric variceal banding, as seen on OSH EGD on day
   of admission
   - Will aggressively resusicitate with blood products
   - Maintain MAP > 65,  Hct > 30, UO > 30 cc/hr, Plt > 70, Fibrinogen >
   100
   - q8h Hct, platelets
   - IV PPI, Ceftriaxone, Octreotide
   - [**State 1497**] tube deflated without bleeding
   - Patient s/p attempted TIPS without and is going for another attempt
   today
   - Appreciate Liver input
   Respiratory Failure: intubated for airway protection.
   - Switched to Fentanyl/Versed
   - Wean FiO2/PEEP as permitted
   - A-line placed
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2159-10-13**] 05:30 PM
   Trauma line - [**2159-10-13**] 11:00 PM
   Arterial Line - [**2159-10-14**] 07:49 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2159-10-16 11:26:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: Hematemesis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Gastric variceal bleed s/p banding attempt at OSH
   24 Hour Events:
   - Unable to have TIPS yesterday sec to scheduling issues
   - Hct stable
   - IVF bolus for low UO
   History obtained from Medical records
   Patient unable to provide history: Sedated, intubated
   Allergies:
   Last dose of Antibiotics:
   Ceftriaxone - [**2159-10-15**] 08:10 PM
   Vancomycin - [**2159-10-16**] 08:00 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 100 mcg/hour
   Octreotide - 50 mcg/hour
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: No(t) Tachycardia
   Nutritional Support: NPO
   Respiratory: intubated
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Flowsheet Data as of  [**2159-10-16**] 11:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 36.7
C (98.1
   HR: 66 (63 - 77) bpm
   BP: 141/77(103) {115/59(78) - 146/86(109)} mmHg
   RR: 15 (14 - 16) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
   CVP: 18 (6 - 19)mmHg
   Total In:
                                                                  2,876 mL
                                                                  1,960 mL
   PO:
   TF:
   IVF:
                                                                  2,876 mL
                                                                  1,960 mL
   Blood products:
   Total out:
                                                                    980 mL
                                                                    333 mL
   Urine:
                                                                    930 mL
                                                                    333 mL
   NG:
                                                                     50 mL
   Stool:
   Drains:
   Balance:
                                                                  1,896 mL
                                                                  1,627 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 15
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 33 cmH2O
   Plateau: 23 cmH2O
   Compliance: 33.3 cmH2O/mL
   SpO2: 100%
   ABG: 7.46///24/
   Ve: 8.7 L/min
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   Anteriorly)
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   11.3 g/dL
   86 K/uL
   146 mg/dL
   0.7 mg/dL
   24 mEq/L
   3.7 mEq/L
   21 mg/dL
   115 mEq/L
   142 mEq/L
   34.1 %
   4.6 K/uL
        [image002.jpg]
                            [**2159-10-14**]  11:44 AM
                            [**2159-10-14**]  04:24 PM
                            [**2159-10-14**]  07:04 PM
                            [**2159-10-14**]  11:01 PM
                            [**2159-10-15**]  04:19 AM
                            [**2159-10-15**]  04:31 AM
                            [**2159-10-15**]  08:15 AM
                            [**2159-10-15**]  04:02 PM
                            [**2159-10-16**]  12:21 AM
                            [**2159-10-16**]  07:30 AM
   WBC
   6.9
   6.4
   5.5
   5.9
   4.6
   Hct
   31.0
   31.7
   31.9
   32.7
   31.2
   32.1
   33.4
   32.4
   34.1
   Plt
   70
   67
   103
   97
   93
   98
   106
   86
   Cr
   0.8
   0.7
   0.7
   TCO2
   22
   Glucose
   128
   146
   Other labs: PT / PTT / INR:16.3/31.0/1.5, ALT / AST:138/191, Alk Phos /
   T Bili:55/1.8, Differential-Neuts:86.7 %, Lymph:7.6 %, Mono:5.0 %,
   Eos:0.6 %, Fibrinogen:209 mg/dL, Lactic Acid:1.6 mmol/L, Albumin:2.3
   g/dL, LDH:162 IU/L, Ca++:7.3 mg/dL, Mg++:1.7 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
   History reviewed, patient seen and examined with resident team.  I
   agree with their notes, including assessment and plan.  In addition, I
   would add/emphasize:
   47M with HepC cirrhosis with UGIB due to esophageal and gastric
   varices. [**Last Name (un) 466**] tube in place, s/p unsuccessful TIPS attempt,
   imaging of liver completed.  Does not appear to have significant
   bleeding at present but at sig risk for rebleed.  For repeat TIPS
   attempt today.
   UGIB:
   - Presumed due to gastric variceal banding attempt
   - hct stable overnight
   - hemodyn stable though [**Month (only) 202**] urine output requiring IVF bolus
   - Maintain MAP > 65
   - Maintain Hct > 30
   - q4h HCT
   - Maintain UO > 30 cc/hr
   - Maintain Plt > 50
   - Maintain Fibrinogen > 100
   - Right IJ trauma line Rt neck
   - IV PPI
   - Ceftriaxone qd
   - Octreotide infusion
   - [**State 1497**] [**Last Name (un) 466**] tube in place, deflated currently
   - Repeat attempt at TIPS today
 liver vascular imaging studies should
   assist in procedure
   Respiratory Failure:
   - intubated for airway protection, continue intubation pending repeat
   TIPS procedure
   - wean FiO2/PEEP as permitted
   Positive Blood Cultures:
   - GPC in blood cultures - Patient started on IV Vanc pending
   cx/sensitivies
   - Follow surveillance cultures.
   Pt is critically ill.
   Time spent on care 45
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2159-10-13**] 05:30 PM
   Trauma line - [**2159-10-13**] 11:00 PM
   Arterial Line - [**2159-10-14**] 07:49 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition :
   Total time spent:

2159-10-17 07:32:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ANGIOGRAPHY - At [**2159-10-16**] 12:06 PM
   TIPS done
 ARTERIAL LINE - STOP [**2159-10-16**] 05:13 PM
   ================
   1.       TIPS: successful.  Per Hepatology, [**Last Name (un) 466**] tube pulled.
   2.       Short gastric varices
 embolized.  400 CC contrast during
   procedure
   3.       R Trauma line replaced by IR.
   4.       Started on maintenance NS
   5.       Pulled L Brachial A-line
   6.       [**Hospital1 **] CBCs stable
   7.       Vanc discontinued as Aline culture grew Coag (-) staph
   8.       Patient with abdominal and sputum
   Allergies:
   Last dose of Antibiotics:
   Vancomycin - [**2159-10-16**] 08:00 AM
   Ceftriaxone - [**2159-10-16**] 08:08 PM
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Octreotide - 50 mcg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2159-10-17**] 07:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.5
C (99.5
   HR: 88 (64 - 101) bpm
   BP: 138/76(91) {127/63(79) - 153/80(94)} mmHg
   RR: 12 (12 - 19) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
    CVP: 12 (9 - 24)mmHg
   Total In:
                                                                  3,830 mL
                                                                  1,131 mL
   PO:
   TF:
   IVF:
                                                                  3,830 mL
                                                                  1,131 mL
   Blood products:
   Total out:
                                                                  1,203 mL
                                                                    390 mL
   Urine:
                                                                  1,203 mL
                                                                    390 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,627 mL
                                                                    741 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 15
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 31 cmH2O
   Plateau: 22 cmH2O
   Compliance: 35.3 cmH2O/mL
   SpO2: 99%
   ABG: 7.46///24/
   Ve: 9 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   87 K/uL
   11.6 g/dL
   105 mg/dL
   0.6 mg/dL
   24 mEq/L
   3.6 mEq/L
   16 mg/dL
   115 mEq/L
   142 mEq/L
   34.1 %
   4.9 K/uL
        [image002.jpg]
                            [**2159-10-14**]  11:01 PM
                            [**2159-10-15**]  04:19 AM
                            [**2159-10-15**]  04:31 AM
                            [**2159-10-15**]  08:15 AM
                            [**2159-10-15**]  04:02 PM
                            [**2159-10-16**]  12:21 AM
                            [**2159-10-16**]  07:30 AM
                            [**2159-10-16**]  04:50 PM
                            [**2159-10-17**]  12:20 AM
                            [**2159-10-17**]  04:57 AM
   WBC
   6.4
   5.5
   5.9
   4.6
   4.3
   5.3
   4.9
   Hct
   32.7
   31.2
   32.1
   33.4
   32.4
   34.1
   33.2
   34.7
   34.1
   Plt
   97
   93
   98
   106
   86
   81
   88
   87
   Cr
   0.7
   0.7
   0.7
   0.6
   TCO2
   22
   Glucose
   128
   146
   107
   105
   Other labs: PT / PTT / INR:16.4/40.1/1.5, ALT / AST:103/131, Alk Phos /
   T Bili:58/2.5, Differential-Neuts:86.7 %, Lymph:7.6 %, Mono:5.0 %,
   Eos:0.6 %, Fibrinogen:209 mg/dL, Lactic Acid:1.6 mmol/L, Albumin:2.2
   g/dL, LDH:191 IU/L, Ca++:7.0 mg/dL, Mg++:1.7 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   47M with HepC cirrhosis with UGIIB
   UGIB: Likely due to gastric variceal banding, as seen on OSH EGD on day
   of admission, s/p TIPS POD1
   - Maintain MAP > 65,  Hct > 30, UO > 30 cc/hr, Plt > 70, Fibrinogen >
   100
   - [**Hospital1 **] Hct, platelets
 all stable at this point
   - IV PPI, Ceftriaxone, Octreotide for a total of 5 Days (to be stopped
   on [**2159-10-18**])
   - [**State 1497**] tube pulled without complication
   - As per IR, US in 1 week and then q3month US, indefinitely, to
   evaluate TIPS
   - Appreciate Liver input
   Respiratory Failure: intubated for airway protection.
   - Will wean sedation, attempt SBT this am
   - Hopefully extubate today
   Transaminitis: improving although Tbili slightly up from yesterday
   - Will continue to follow
   ICU Care
   Nutrition: will assess swallowing after extubation.  Patient may need
   Speech and Swallow consult.
   Glycemic Control:
   Lines:
   18 Gauge - [**2159-10-13**] 05:30 PM
   Trauma line - [**2159-10-13**] 11:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2159-10-18 07:20:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   1.Given Lasix 20IV and out out ~1200 cc
   2. Extubated without event
   Allergies:
   Last dose of Antibiotics:
   Vancomycin - [**2159-10-16**] 08:00 AM
   Ceftriaxone - [**2159-10-17**] 08:20 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2159-10-17**] 11:05 AM
   Pantoprazole (Protonix) - [**2159-10-17**] 08:20 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2159-10-18**] 07:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37
C (98.6
   HR: 80 (74 - 113) bpm
   BP: 138/69(87) {129/65(83) - 164/104(115)} mmHg
   RR: 14 (9 - 19) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  3,556 mL
                                                                    941 mL
   PO:
                                                                    100 mL
             TF:
   IVF:
                                                                  3,456 mL
                                                                    941 mL
   Blood products:
   Total out:
                                                                  3,030 mL
                                                                    420 mL
   Urine:
                                                                  3,030 mL
                                                                    420 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    526 mL
                                                                    521 mL
   Respiratory support
   O2 Delivery Device: Face tent
   Ventilator mode: Standby
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 547 (547 - 547) mL
   PS : 5 cmH2O
   RR (Set): 15
   RR (Spontaneous): 14
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 27
   PIP: 27 cmH2O
   Plateau: 25 cmH2O
   SpO2: 96%
   ABG: ///26/
   Ve: 8.1 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   88 K/uL
   11.8 g/dL
   103 mg/dL
   0.5 mg/dL
   26 mEq/L
   3.6 mEq/L
   14 mg/dL
   113 mEq/L
   142 mEq/L
   34.2 %
   4.8 K/uL
        [image002.jpg]
                            [**2159-10-15**]  04:31 AM
                            [**2159-10-15**]  08:15 AM
                            [**2159-10-15**]  04:02 PM
                            [**2159-10-16**]  12:21 AM
                            [**2159-10-16**]  07:30 AM
                            [**2159-10-16**]  04:50 PM
                            [**2159-10-17**]  12:20 AM
                            [**2159-10-17**]  04:57 AM
                            [**2159-10-17**]  04:11 PM
                            [**2159-10-18**]  03:44 AM
   WBC
   5.9
   4.6
   4.3
   5.3
   4.9
   6.0
   4.8
   Hct
   32.1
   33.4
   32.4
   34.1
   33.2
   34.7
   34.1
   35.0
   34.2
   Plt
   98
   106
   86
   81
   88
   87
   86
   88
   Cr
   0.7
   0.7
   0.6
   0.5
   TCO2
   22
   Glucose
   146
   107
   105
   103
   Other labs: PT / PTT / INR:17.1/33.6/1.5, ALT / AST:85/99, Alk Phos / T
   Bili:58/2.0, Differential-Neuts:86.7 %, Lymph:7.6 %, Mono:5.0 %,
   Eos:0.6 %, Fibrinogen:209 mg/dL, Lactic Acid:1.6 mmol/L, Albumin:2.1
   g/dL, LDH:220 IU/L, Ca++:7.2 mg/dL, Mg++:1.7 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
   47M with HepC cirrhosis with UGIB
   UGIB: Likely due to gastric variceal banding, as seen on OSH EGD on day
   of admission, s/p TIPS POD2
   - Hemodynamically stable. No products since [**2159-10-14**]
   - [**Hospital1 **] CBC have been stable
   - IV PPI
   - Ceftriaxone to be stopped on [**2159-10-20**]
   - Octreotide for a total of 5 Days (last dose on [**2159-10-18**])
   - As per IR, US in 1 week and then q3month US, indefinitely, to
   evaluate TIPS
   - Appreciate Liver input
   Respiratory Failure: intubated for airway protection.
   - Extubated without event
   Micro: Patient treated with Ceftriaxone for variceal bleed.  Also
   patient transiently treated with Vanc while A-line grew out Staph epi.
   As per pathology, patient has received a platelet product on [**10-13**] and
   since then a new colony of GPC has grown out from his A-line.  Another
   patient at another hospital had a GPC (unspeciated) bacteremia from the
   same sample of contaminated platelets.  Patient has not demonstrated
   signs of infection at this point.
   Transaminitis: improving
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2159-10-13**] 05:30 PM
   Trauma line - [**2159-10-13**] 11:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: